US09371271B2
Synthesis of 1,2-dilinoleyloxy-N,N-dimethylaminopropane (DLinDMA)
In a nitrogen atmosphere, hexane (30 mL), potassium hydroxide (3.1 g, 54.4 mmol), and water (0.6 g: 3 parts by weight relative to 100 parts by weight of hexane) were added to a four-necked flask, and 3-(dimethylamino)-1,2-propanediol (0.72 g, 6.04 mmol: DAP) was dropped under agitation. Thereafter, linoleyl methane sulfonate (5.0 g, 14.5 mmol) was added, and agitation was performed at 40° C. for 19 hours. The reaction was terminated because remaining linoleyl methane sulfonate became 1.0% (degree of conversion: 64.0%, integrated value of isomer: 0.009).

reactant | hexane | 30 mL | CCCCCC | C6H14
reactant | potassium hydroxide | 54.4 mmol, 3.1 g | [OH-].[K+]
reactant | 3-(dimethylamino)-1,2-propanediol | 6.04 mmol, 0.72 g | CN(CC(CO)O)C | C5H13NO2
reactant | linoleyl methane sulfonate | 14.5 mmol, 5.0 g | CS(=O)(=O)OCCCCCCCC\C=C/C\C=C/CCCCC | C19H36O3S
solvent | water | 0.6 g | O | H2O
product | 1,2-dilinoleyloxy-N,N-dimethylaminopropane | C(CCCCCCC\C=C/C\C=C/CCCCC)OC(C(C)OCCCCCCCC\C=C/C\C=C/CCCCC)N(C)C | C41H77NO2
